US07714010B2
To a solution of phenyl bronic acid (0.47 g; 3.9 mmol), N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (0.5 g; 1.9 mmol) and NEt3 (0.5 μl; 3.9 mmol) in CH2Cl2 (15 ml) is added molsieves (150 mg; 4 Å), Cu(OAc)2 (70 mg; 385 μmol) and finally TEMPO (0.33 g; 2.11 mmol). The reaction mixture is stirred in an open flask at RT for 7 days. After completion MeOH (20 ml) is added and the mixture is adsorbed on silica gel. Purification by chromatography gives N-(3,3-dimethyl-6-nitro-2-oxo-1-phenyl-2,3-dihydro-1H-indol-5-yl)-acetamide (0.35 g). The material is de-acetylated in MeOH (10 ml) using DBU (80 μl) at reflux. After aqueous work-up 5-amino-3,3-dimethyl-6-nitro-1-phenyl-1,3-dihydro-indol-2-one (0.3 g) is obtained and used without further purification.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 1.9 mmol, 0.5 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | NEt3 | 3.9 mmol, 0.5 μl | CCN(CC)CC | C6H15N
reactant | TEMPO | 2.11 mmol, 0.33 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | MeOH | 20 ml | CO | CH4O
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 385 μmol, 70 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | N-(3,3-dimethyl-6-nitro-2-oxo-1-phenyl-2,3-dihydro-1H-indol-5-yl)-acetamide | 0.35 g | CC1(C(N(C2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])C1=CC=CC=C1)=O)C | C18H17N3O4
